US07678917B2
To a stirred solution of (1SR,3RS,4SR)-3-cyano-4-methoxy-cyclopentanecarboxylic acid methyl ester (595 mg) in ethanol/chloroform 5:1 (6 ml) was added PtO2 (60 mg). The reaction mixture was hydrogenated overnight. The catalyst was filtered off and washed with MeOH. The filtrate was concentrated to give (1SR,3RS,4SR)-3-aminomethyl-4-methoxy-cyclopentanecarboxylic acid methyl ester hydrochloride (704 mg) as white amorphous semisolid. MS 188.3 ([M+H]+).

reactant | (1SR,3RS,4SR)-3-cyano-4-methoxy-cyclopentanecarboxylic acid methyl ester | 595 mg | COC(=O)C1CC(C(C1)OC)C#N | C9H13NO3
reactant | ethanol chloroform | 6 ml | C(C)O.C(Cl)(Cl)Cl
catalyst | PtO2 | 60 mg | O=[Pt]=O
product | (1SR,3RS,4SR)-3-aminomethyl-4-methoxy-cyclopentanecarboxylic acid methyl ester hydrochloride | 704 mg | Cl.COC(=O)C1CC(C(C1)OC)CN | InChI=1S/C9H17NO3.ClH/c1-12-8-4-6(9(11)13-2)3-7(8)5-10;/h6-8H,3-5,10H2,1-2H3;1H
